US07563908B2
4.50 g NaBH4 (119 mmol) was added in portions to 7.50 g allyl bromide (62.0 mmol) and 8.35 g 2,2′-dithiodibenzamide (27.4 mmol, prepared from 2,2′-dithiodibenzoic acid via 2,2′-dithiodibenzoic acid chloride) in 80 mL methanol at 0° C. The reaction mixture was stirred I hour at room temperature. 50 mL IN HCl was added and stirring was continued 1 hour. Methanol was removed in vacuo. The residue was extracted with ethyl acetate. The organic phase was washed with brine, dried with MgSO4 and concentrated in vacuo to give 10.0 g 2-allylsulfanyl-benzamide (51.7 mmol, 94%). 2.1 g LiAlH4 (55 mmol) was added to 6.0 g 2-allylsulfanyl-benzamide (31 mmol) in 50 mL dry THF at 0° C. The reaction mixture was stirred for 16 hours at room temperature. The reaction was quenched with 4 mL water and 3 mL 2N NaOH. The reaction mixture was stirred for 1 hour, then 9 mL water was added and stirring was continued for another hour. The mixture was filtered, dried with MgSO4 and concentrated in vacuo to give 5.05 g 2-allylsulfanyl-benzylamine (28.2 mmol, 91%). 2.05 g Di-tert-butyl dicarbonate (9.37 mmol) was added to 1.40 g 2-allylsulfanyl-benzylamine (7.81 mmol) and a catalytic amount of N,N-dimethyl-4-amino pyridine in 20 mL THF. The reaction mixture was stirred for 15 minutes at room temperature. 10 mL 20% citric acid was added and the reaction mixture was stirred for 30 minutes. The reaction mixture was extracted with ethyl acetate, the two phases were separated and the organic phase was washed with brine, dried with MgSO4 and concentrated in vacuo to give (2-allylsulfanyl-benzyl)-carbamic acid tert-butyl ester in quantitative yield. 0.70g NalO4 (3.3 mmol) in 20 mL water was added to 0.75 g (2-allylsulfanyl-benzyl)-carbamic acid tert-butyl ester (2.7 mmol) in 20 mL methanol and stirred for 2 hours at room temperature. The reaction mixture was filtered and methanol was removed in vacuo. The residue was extracted with ethyl acetate. The organic phase was washed with brine, dried with MgSO4 and concentrated in vacuo. The residue was redissolved in 5 mL THF and added to 0.50 g fluoro-1H-indole (3.7 mmol) and 0.65 g trichloro acetic acid (4.0 mmol) in 5 mL THF and stirred for 16 hours at 50° C. Sat. aqueous NaHCO3 and ethyl acetate was added, the two phases were separated and the organic phase was washed with brine, dried with MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography and 0.157 g [2-(5-fluoro-1H-indol-3-ylsulfanyl)-benzyl]-carbamic acid tert-butyl ester (0.42 mmol, 16%) was isolated after recrystallization from ethyl acetate/heptane. 8 mL diethyl ether saturated with HCl was added to 0.157 g [2-(5-fluoro-1H-indol-3-ylsulfanyl)-benzyl]-carbamic acid tert-butyl ester (0.42 mmol) in 8 mL methanol and stirred 16 hours. The reaction was neutralized with 2N NaOH and extracted with ethyl acetate. The organic phase was washed with brine, dried with MgSO4 and concentrated in vacuo to give 0.112 g 2-(5-fluoro-1H-indol-3-ylsulfanyl)-benzylamine (98%).

reactant | Di-tert-butyl dicarbonate | 9.37 mmol, 2.05 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-allylsulfanyl-benzylamine | 7.81 mmol, 1.40 g | C(C=C)SC1=C(CN)C=CC=C1 | C10H13NS
reactant | citric acid | 10 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | N,N-dimethyl-4-amino pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-allylsulfanyl-benzyl)-carbamic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(NCC1=C(C=CC=C1)SCC=C)=O | C15H21NO2S
